US06939646B2
To an aqueous solution of ammonium chloride was added dropwise an acetone solution of pentafluorobenzenesulfonyl chloride at room temperature. During addition, pH was adjusted to 7 by an aqueous sodium hydroxide solution. Precipitated product was filtered and recrystallized from toluene to give pentafluorobenzenesulfonamide. The structure was confirmed by 1H-NMR, 19F-NMR and IR.

reactant | ammonium chloride | [Cl-].[NH4+]
reactant | pentafluorobenzenesulfonyl chloride | FC1=C(C(=C(C(=C1S(=O)(=O)Cl)F)F)F)F | C6ClF5O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | pentafluorobenzenesulfonamide | FC1=C(C(=C(C(=C1S(=O)(=O)N)F)F)F)F | C6H2F5NO2S
